US07915270B2
Methyl 5-(2-(7-phenylheptanoyl)oxazol-5-yl)furan-2-carboxylate
Methyl 5-(2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)oxazol-5-yl)furan-2-carboxylate. The title compound was prepared from 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole (82 mg, 0.125 mmol) and methyl 5-bromofuran-2-carboxylate following General Procedure A. Flash chromatography (2-10% EtOAc/hexanes) yielded the title compound as a clear oil (62 mg, 99%): 1H NMR (CDCl3, 400 MHz) δ 7.42 (s, 1H), 7.29-7.25 (m, 3H), 7.19-7.16 (m, 3H), 6.70 (d, 1H, J=3.6 Hz), 4.83 (t, 1H, J=6.0 Hz), 3.92 (s, 3H), 2.60 (t, 2H, J=7.6 Hz), 1.96-1.85 (m, 2H), 1.71-1.57 (m, 2H), 1.40-1.33 (m, 6H), 0.90 (s, 9H), 0.10 (s, 3H), 0.00 (s, 3H); 13C NMR (CDCl3, 100 MHz) δ 163.8, 151.9, 149.1, 147.8, 147.5, 133.4, 133.2, 130.6, 129.3, 124.6, 113.6, 113.5, 73.6, 57.1, 41.3, 40.9, 36.4, 34.1, 30.7, 30.7, 30.1, 23.2, 0.0, −0.1.

reactant | Methyl 5-(2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)oxazol-5-yl)furan-2-carboxylate | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)C1=CC=C(O1)C(=O)OC | C28H39NO5Si
reactant | 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole | 0.125 mmol, 82 mg | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)[Sn](CCCC)(CCCC)CCCC
reactant | methyl 5-bromofuran-2-carboxylate | BrC1=CC=C(O1)C(=O)OC | C6H5BrO3
product | Methyl 5-(2-(7-phenylheptanoyl)oxazol-5-yl)furan-2-carboxylate | 62 mg, 99% | C1(=CC=CC=C1)CCCCCCC(=O)C=1OC(=CN1)C1=CC=C(O1)C(=O)OC | C22H23NO5
